***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19503KCS
* Date: 01/17/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS479 - DECEMBER 2013
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	9.057E-10	)
+	(	1	8.993E-10	)
+	(	2	8.96E-10	)
+	(	3	8.959E-10	)
+	(	4	8.992E-10	)
+	(	5	9.034E-10	)
+	(	6	9.072E-10	)
+	(	7	9.2513E-10	)
+	(	8	9.5376E-10	)
+	(	9	9.5416E-10	)
+	(	10	9.5294E-10	)
+	(	11	9.5257E-10	)
+	(	12	9.521E-10	)
+	(	13	9.5156E-10	)
+	(	14	9.5001E-10	)
+	(	15	9.4942E-10	)
+	(	16	9.488E-10	)
+	(	17	9.4814E-10	)
+	(	18	9.4745E-10	)
+	(	19	9.4675E-10	)
+	(	20	9.4603E-10	)
+	(	21	9.4532E-10	)
+	(	22	9.4462E-10	)
+	(	23	9.4392E-10	)
+	(	24	9.4323E-10	)
+	(	25	9.4256E-10	)
+	(	26	9.4192E-10	)
+	(	27	9.413E-10	)
+	(	28	9.4071E-10	)
+	(	29	9.4013E-10	)
+	(	30	9.3957E-10	)
+	(	31	9.39E-10	)
+	(	32	9.3842E-10	)
+	(	33	9.3781E-10	)
+	(	34	9.3715E-10	)
+	(	35	9.3546E-10	)
+	(	36	9.3473E-10	)
+	(	37	9.3396E-10	)
+	(	38	9.3316E-10	)
+	(	39	9.3233E-10	)
+	(	40	9.3147E-10	)
+	(	41	9.306E-10	)
+	(	42	9.297E-10	)
+	(	43	9.2879E-10	)
+	(	44	9.2786E-10	)
+	(	45	9.2692E-10	)
+	(	46	9.2597E-10	)
+	(	47	9.2402E-10	)
+	(	48	9.2305E-10	)
+	(	49	9.2207E-10	)
+	(	50	9.211E-10	)
+	(	51	9.2011E-10	)
+	(	52	9.1912E-10	)
+	(	53	9.1813E-10	)
+	(	54	9.1614E-10	)
+	(	55	9.1515E-10	)
+	(	56	9.1415E-10	)
+	(	57	9.1316E-10	)
+	(	58	9.1218E-10	)
+	(	59	9.1019E-10	)
+	(	60	9.0921E-10	)
+	(	61	9.0823E-10	)
+	(	62	9.0726E-10	)
+	(	63	9.0628E-10	)
+	(	64	9.0431E-10	)
+	(	65	9.0334E-10	)
+	(	66	9.0237E-10	)
+	(	67	9.004E-10	)
+	(	68	8.9944E-10	)
+	(	69	8.9847E-10	)
+	(	70	8.9751E-10	)
+	(	71	8.9555E-10	)
+	(	72	8.9458E-10	)
+	(	73	8.9362E-10	)
+	(	74	8.9166E-10	)
+	(	75	8.907E-10	)
+	(	76	8.8974E-10	)
+	(	77	8.8777E-10	)
+	(	78	8.8681E-10	)
+	(	79	8.8585E-10	)
+	(	80	8.8389E-10	)
+	(	81	8.8292E-10	)
+	(	82	8.8196E-10	)
+	(	83	8.7999E-10	)
+	(	84	8.7903E-10	)
+	(	85	8.7807E-10	)
+	(	86	8.761E-10	)
+	(	87	8.7514E-10	)
+	(	88	8.7317E-10	)
+	(	89	8.722E-10	)
+	(	90	8.7124E-10	)
+	(	91	8.6927E-10	)
+	(	92	8.683E-10	)
+	(	93	8.6733E-10	)
+	(	94	8.6536E-10	)
+	(	95	8.6439E-10	)
+	(	96	8.6241E-10	)
+	(	97	8.6238E-10	)
+	(	98	8.6234E-10	)
+	(	99	8.623E-10	)
+	(	100	8.6226E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	2.664E-10	)
+	(	1	2.15E-10	)
+	(	2	1.905E-10	)
+	(	3	1.725E-10	)
+	(	4	1.532E-10	)
+	(	5	1.348E-10	)
+	(	6	1.189E-10	)
+	(	7	1.037E-10	)
+	(	8	7.648E-11	)
+	(	9	3.616E-11	)
+	(	10	3.448E-11	)
+	(	11	3.342E-11	)
+	(	12	3.254E-11	)
+	(	13	3.178E-11	)
+	(	14	3.106E-11	)
+	(	15	3.037E-11	)
+	(	16	2.965E-11	)
+	(	17	2.888E-11	)
+	(	18	2.803E-11	)
+	(	19	2.708E-11	)
+	(	20	2.609E-11	)
+	(	21	2.51E-11	)
+	(	22	2.418E-11	)
+	(	23	2.334E-11	)
+	(	24	2.262E-11	)
+	(	25	2.2E-11	)
+	(	26	2.148E-11	)
+	(	27	2.105E-11	)
+	(	28	2.069E-11	)
+	(	29	2.04E-11	)
+	(	30	2.015E-11	)
+	(	31	1.995E-11	)
+	(	32	1.979E-11	)
+	(	33	1.966E-11	)
+	(	34	1.955E-11	)
+	(	35	1.947E-11	)
+	(	36	1.94E-11	)
+	(	37	1.935E-11	)
+	(	38	1.93E-11	)
+	(	39	1.926E-11	)
+	(	40	1.923E-11	)
+	(	41	1.92E-11	)
+	(	42	1.917E-11	)
+	(	43	1.915E-11	)
+	(	44	1.913E-11	)
+	(	45	1.911E-11	)
+	(	46	1.909E-11	)
+	(	47	1.907E-11	)
+	(	48	1.905E-11	)
+	(	49	1.903E-11	)
+	(	50	1.9E-11	)
+	(	51	1.898E-11	)
+	(	52	1.894E-11	)
+	(	53	1.891E-11	)
+	(	54	1.887E-11	)
+	(	55	1.882E-11	)
+	(	56	1.877E-11	)
+	(	57	1.872E-11	)
+	(	58	1.866E-11	)
+	(	59	1.861E-11	)
+	(	60	1.855E-11	)
+	(	61	1.849E-11	)
+	(	62	1.843E-11	)
+	(	63	1.837E-11	)
+	(	64	1.83E-11	)
+	(	65	1.824E-11	)
+	(	66	1.818E-11	)
+	(	67	1.812E-11	)
+	(	68	1.805E-11	)
+	(	69	1.799E-11	)
+	(	70	1.793E-11	)
+	(	71	1.787E-11	)
+	(	72	1.781E-11	)
+	(	73	1.774E-11	)
+	(	74	1.768E-11	)
+	(	75	1.762E-11	)
+	(	76	1.756E-11	)
+	(	77	1.75E-11	)
+	(	78	1.743E-11	)
+	(	79	1.737E-11	)
+	(	80	1.731E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	3.2016E-09	)
+	(	1	2.695E-09	)
+	(	2	2.3455E-09	)
+	(	3	2.0985E-09	)
+	(	4	1.8978E-09	)
+	(	5	1.7412E-09	)
+	(	6	1.6161E-09	)
+	(	7	1.5063E-09	)
+	(	8	1.37652E-09	)
+	(	9	1.09184E-09	)
+	(	10	1.02152E-09	)
+	(	11	9.8058E-10	)
+	(	12	9.4986E-10	)
+	(	13	9.2702E-10	)
+	(	14	9.1224E-10	)
+	(	15	9.0573E-10	)
+	(	16	9.0745E-10	)
+	(	17	9.1632E-10	)
+	(	18	9.2947E-10	)
+	(	19	9.4302E-10	)
+	(	20	9.5281E-10	)
+	(	21	9.562E-10	)
+	(	22	9.5232E-10	)
+	(	23	9.4176E-10	)
+	(	24	9.2568E-10	)
+	(	25	9.054E-10	)
+	(	26	8.8262E-10	)
+	(	27	8.5785E-10	)
+	(	28	8.3191E-10	)
+	(	29	8.053E-10	)
+	(	30	7.7825E-10	)
+	(	31	7.5115E-10	)
+	(	32	7.2411E-10	)
+	(	33	6.9764E-10	)
+	(	34	6.7195E-10	)
+	(	35	6.4723E-10	)
+	(	36	6.238E-10	)
+	(	37	6.0155E-10	)
+	(	38	5.806E-10	)
+	(	39	5.6074E-10	)
+	(	40	5.4197E-10	)
+	(	41	5.243E-10	)
+	(	42	5.0753E-10	)
+	(	43	4.9145E-10	)
+	(	44	4.7617E-10	)
+	(	45	4.6159E-10	)
+	(	46	4.4771E-10	)
+	(	47	4.3443E-10	)
+	(	48	4.2205E-10	)
+	(	49	4.1017E-10	)
+	(	50	3.99E-10	)
+	(	51	3.8882E-10	)
+	(	52	3.7926E-10	)
+	(	53	3.7059E-10	)
+	(	54	3.6263E-10	)
+	(	55	3.5538E-10	)
+	(	56	3.4883E-10	)
+	(	57	3.4278E-10	)
+	(	58	3.3724E-10	)
+	(	59	3.3229E-10	)
+	(	60	3.2765E-10	)
+	(	61	3.2351E-10	)
+	(	62	3.1967E-10	)
+	(	63	3.1613E-10	)
+	(	64	3.129E-10	)
+	(	65	3.0986E-10	)
+	(	66	3.0712E-10	)
+	(	67	3.0458E-10	)
+	(	68	3.0215E-10	)
+	(	69	3.0001E-10	)
+	(	70	2.9797E-10	)
+	(	71	2.9603E-10	)
+	(	72	2.9429E-10	)
+	(	73	2.9266E-10	)
+	(	74	2.9112E-10	)
+	(	75	2.8968E-10	)
+	(	76	2.8834E-10	)
+	(	77	2.871E-10	)
+	(	78	2.8597E-10	)
+	(	79	2.8483E-10	)
+	(	80	2.8379E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD19503KCS  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    6.80e-3  
 .PARAM  ptrc2    2.1e-5
 .PARAM  pwidthP  3.4994117647058823529411764705882
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	9.70583E-10
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {3.4994117647058823529411764705882/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 4.50
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 5.45e-3
RDP   4  7	 {0.5e-7+1.42e-6}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.60        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.125
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.600e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18   gamma=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=81
+ IS=5.0e-12 N=1.06 RS=1.00e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD19503KCS  
*$
*